2184-09-26 05:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Extubated yesterday
   Diet was advanced
   Placed on the CIWA protocol.
   Beta blocker was restarted
   A repeat HD CT was performed that showed no significant changes
   Pt was kept in collar while he was still somnolent. He was assessed and
   deemed too somnolent clinically clear his c-spine collar.
   Pt was reassessed when more awake and endorsed midline tenderness  and
   pain on later rotation. The collar was replaced, but the patient
   refused to keep the collar on.
   Allergies:
   Last dose of Antibiotics:
   Metronidazole - [**2184-9-25**] 11:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-9-26**] 05:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.6
C (96
   HR: 87 (78 - 99) bpm
   BP: 158/92(109) {127/73(88) - 167/106(116)} mmHg
   RR: 21 (12 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,140 mL
                                                                     59 mL
   PO:
                                                                    500 mL
             TF:
   IVF:
                                                                    640 mL
                                                                     59 mL
   Blood products:
   Total out:
                                                                  1,345 mL
                                                                    350 mL
   Urine:
                                                                  1,345 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -206 mL
                                                                   -291 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 485 (351 - 485) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   Plateau: 19 cmH2O
   SpO2: 94%
   ABG: ///31/
   Ve: 4.6 L/min
   Physical Examination
   General Appearance: No acute distress, resting comfortably
   HEENT:  PERRL, EOMI, Normocephalic, Poor dentition, large 1.5 x1.5 cm
   nontender, soft mass is present at his right neck.
   CARD: irregularly irregular s1, s1 wnl, no m/r/g
   PULM: CTA bilaterally, no rales, rhonchi, or wheezing
   ABD: Soft, Non-tender, Bowel sounds present, obese, mildly distended,
   tympanetic.
   Extremities: RP 2+ DP2+,
   Skin:  Warm, moist,
   NEURO: CNII-XII intact. Strength 4/5 upper and lower extremities,
   possibly [**1-24**] to effort.
   Labs / Radiology
   356 K/uL
   9.5 g/dL
   107 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.5 mEq/L
   8 mg/dL
   94 mEq/L
   134 mEq/L
   28.5 %
   8.1 K/uL
        [image002.jpg]
                             [**2184-9-24**]  11:30 PM
                             [**2184-9-25**]  01:43 AM
                             [**2184-9-25**]  04:46 AM
                             [**2184-9-26**]  03:36 AM
   WBC
   4.8
   6.0
   8.1
   Hct
   28.6
   26.7
   28.5
   Plt
   [**Telephone/Fax (3) 2381**]
   Cr
   0.8
   0.7
   0.6
   TCO2
   28
   Glucose
   106
   99
   96
   107
   Other labs: PT / PTT / INR:15.2/29.4/1.3, ALT / AST:[**9-8**], Alk Phos / T
   Bili:62/0.4, Differential-Neuts:78.8 %, Lymph:11.7 %, Mono:9.3 %,
   Eos:0.1 %, Lactic Acid:1.1 mmol/L, Albumin:3.5 g/dL, Ca++:9.1 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   A/P: Pt is a 60y/o M with PMH of EtOH abuse admitted with fever,
   multifocal intraparenchymal hemmorhagic contusions, SDH, nondisplaced
   occipital fracture and epidural hematoma now intubated for airway
   protection.
   .
   # Traumatic Head Injury with Intraparenchymal bleed and subdural bleed
   - pt found s/p seizure per report, had mechanism significant enough for
   occipital frx. Evaluated by Neurosurgery with no indication for
   surgical intervention. Pt improved with wean of sedation yesterday. Tox
   screen negative. No evidence of ICP.  Repeat CT Head showed likely
   stable blood, redistribution, but no new acute bleed.
   - Continue dilantin for seizure prophylaxis, last level was 3.2
   - Call pharmacy to determine appropriate dosing
   - Neurosurgery following, appreciate recs
   - [**Hospital **] medical neurology regarding appropriate home seizure
   medication given complex hx of ETOH seizures and current ICB.
   .
   # C-spine: pt w/ negative c-spine CT, but endorsing midline TTP and
   pain on later movement. Pt will likely need to have ortho/spine f/u for
   consideration of MRI to assess for ligamentous injury.
   - Instructed to continue wearing neck brace
   - Consult Trauma surgery or Ortho/Spine to eval C-spine.
   .
   # Fever - Pt with temp to 102.8 on presentation to ED. WBC are normal
   have trended upwards. Currently afebrile. Question of retrocardiac
   opacity on CXR on presentation and high risk for aspiration event given
   seizure and fall led to initial treatment with Levo/Flagyl. No other
   focal finding.  Given data, and improved fevers after treatment, it is
   possible that an early aspiration PNA was treated.
   - Continue levaquin/flagyl for likely aspiration x 5 days.
   - F/u CXR tomorrow.
   - F/u cx data and trend WBC
   .
   # Diastolic CHF - euvolemic on exam.
   - Restarted metoprolol last night as did not want to induce BB
   withdrawl
   - Hold ASA given bleed
   - Hold lasix for now
   - Continue simvastatin
   .
   # Chronic Pleural Effusions s/p VATS and decortication - unclear if CXR
   change from baseline
   - obtain OSH recors
   .
   # COPD - continue spiriva and albuterol
   .
   # EtOH Seizures - Unclear seizure history - pt on depakote as
   outpatient. Possible seizure focus related to bleed. Loaded with
   dilantin in ED
   - continue dilantin 100mg TID
   - consider neurology consult for EEG
   - Neurology consult for appropriate home med as per above.
   .
   # Atrial Fibrillation - holding ASA as above, will restart per
   Neurosurgery recs.
   .
   # Depression - continue paxil, SW consult
   .
   # GERD - continue PPI
   .
   # FEN
 ADAT to regular
   .
   # Access - 2 PIV
   .
   # Code - presumed full
   # DISPO: c/o to floor this am.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2184-9-24**] 10:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2184-09-26 09:59:00 Physician Attending Progress Note
Chief Complaint: intracranial hemorrhage
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Tolerated extubation
   Patient refused to keep c collar on, but now replaced.  Patient notes
   midline neck tenderness.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Last dose of Antibiotics:
   Metronidazole - [**2184-9-25**] 11:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   colace, flagyl, advair, spiriva, statin, PPI, Dilantin 100 TID (level =
   3.2), Paxil, ceftriaxone, lopressor, Valium oral (has received 20 mg
   total per CIWA)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-9-26**] 09:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.6
C (96
   HR: 91 (82 - 99) bpm
   BP: 166/111(123) {127/82(91) - 167/111(123)} mmHg
   RR: 20 (14 - 23) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,140 mL
                                                                     70 mL
   PO:
                                                                    500 mL
             TF:
   IVF:
                                                                    640 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                  1,345 mL
                                                                    550 mL
   Urine:
                                                                  1,345 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -206 mL
                                                                   -480 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 485 (351 - 485) mL
   PS : 5 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 93%
   ABG: ///31/
   Ve: 4.6 L/min
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   9.5 g/dL
   356 K/uL
   107 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.5 mEq/L
   8 mg/dL
   94 mEq/L
   134 mEq/L
   28.5 %
   8.1 K/uL
        [image002.jpg]
                             [**2184-9-24**]  11:30 PM
                             [**2184-9-25**]  01:43 AM
                             [**2184-9-25**]  04:46 AM
                             [**2184-9-26**]  03:36 AM
   WBC
   4.8
   6.0
   8.1
   Hct
   28.6
   26.7
   28.5
   Plt
   [**Telephone/Fax (3) 2381**]
   Cr
   0.8
   0.7
   0.6
   TCO2
   28
   Glucose
   106
   99
   96
   107
   Other labs: PT / PTT / INR:15.2/29.4/1.3, ALT / AST:[**9-8**], Alk Phos / T
   Bili:62/0.4, Differential-Neuts:78.8 %, Lymph:11.7 %, Mono:9.3 %,
   Eos:0.1 %, Lactic Acid:1.1 mmol/L, Albumin:3.5 g/dL, Ca++:9.1 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   60-year-old man with seizure, IPH, and apparently venous EDH in the
   setting of prior seizure disorder and ongoing alcohol abuse.
   ICH
   CT appears to show layering but otherwise stable ICH.
   Follow final read of CTA of head
   Await neurosurgery input
   Seizure disorder
   Will ask neurology to comment on optimal anti-epileptic regimen in
   patient with new ICH, prior AED use, and possible liver disease.
   Neck
   Although his CT showed no fracture, he has a reasonable mechanism for
   ligamentous injury and he has ongoing tenderness.  Will discuss with
   neurosurgery or trauma
   Pneumonia
   Probable aspiration.  If fever recurs, add backs typical coverage.
   Alcohol abuse.
   Very high risk for alcohol withdrawal.  Thiamine/folate.  Follow with
   CIWA/Valium.
   Other issues (chronic diastolic CHF, pleural disease, etc.) per ICU
   team note
   To floor
   ICU Care
   Nutrition: ADAT
   Glycemic Control:
   Lines:
   18 Gauge - [**2184-9-24**] 10:52 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor